US06235731B1
Synthesis of ethyl 5-thia-1,8b-diazaacenaphthylene-4-carboxylate
To a solution of ethyl (imidazo[1,2-a]pyridin-5-ylthio)acetate (11.8 g) in acetic acid (120 ml) was added hexamethylenetetramine (14.0 g) and the mixture was reacted at 90° C. for 10 hours. After this reaction mixture was allowed to cool, ethyl acetate (360 ml) was added and the mixture was washed with water. The organic layer was neutralized with 30% aqueous solution of sodium hydroxide under ice-cooling and washed again with water. The organic layer was concentrated and n-hexane (100 ml) was added to the crystalline residue, followed by 1 hour of stirring at room temperature. The crystals were collected by filtration and dried to provide the title compound (9.6 g, 78%).

reactant | ethyl (imidazo[1,2-a]pyridin-5-ylthio)acetate | 11.8 g | N=1C=CN2C1C=CC=C2SCC(=O)OCC | C11H12N2O2S
reactant | hexamethylenetetramine | 14.0 g | C1N2CN3CN1CN(C2)C3 | C6H12N4
reactant | ethyl acetate | 360 ml | C(C)(=O)OCC | C4H8O2
solvent | acetic acid | 120 ml | C(C)(=O)O | C2H4O2
product | ethyl 5-thia-1,8b-diazaacenaphthylene-4-carboxylate | 9.6 g, 78% | N=1C=C2C=C(SC3=CC=CC1N23)C(=O)OCC | C12H10N2O2S
